US07683168B2
Sodium carbonate (2.12 g) was added to the solution of homopiperazine (10.0 g; 5 eq.) and ethyl 4-bromobutyrate (3.90 g; 1 eq.) in CH3CN (120 mL). The reaction was stirred at room temperature for 6 h. The reaction mixture was filtered thru a celite pad. The filtrate was concentrated. The remaining residual was dissolved in CHCl3 (120 mL), washed by H2O (50 mL×3) and brine (50 mL×1), dried by Na2SO4 and concentrated to give 4-[1,4]diazepan-1-yl-butyric acid ethyl ester (3.8 g), which was carried on for the next step without further purification.

reactant | Sodium carbonate | 2.12 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | homopiperazine | 10.0 g, 5 eq. | N1CCNCCC1 | C5H12N2
reactant | ethyl 4-bromobutyrate | 3.90 g, 1 eq. | BrCCCC(=O)OCC | C6H11BrO2
solvent | CH3CN | 120 mL | CC#N | C2H3N
product | 4-[1,4]diazepan-1-yl-butyric acid ethyl ester | 3.8 g | C(C)OC(CCCN1CCNCCC1)=O | C11H22N2O2
